US07696223B2
a) 2,3,7-Tribromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 2,3-dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (4.05 g), and NBS (1.61 g) in MeCN (30 mL) was refluxed for 10 min, then the reaction mixture was cooled with ice/water bath, the precipitates were collected as the desired product (1.418 g). The title compound, ESI MS (m/z): 583 (M+H)+.

reactant | 2,3-dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 4.05 g | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=C(C=C2)OC)O | C18H16Br2N2O4
reactant | NBS | 1.61 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 2,3,7-Tribromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)CC2=CC=C(C=C2)OC)O | C18H15Br3N2O4
